US04061761
12.5 g of 4'-fluoro-3'-sulfamoylacetophenone were reacted as described in Example 12 with 9.2 g of bromine to give the 2-bromo-4'-fluoro-3'-sulfamoylacetophenone, melting point: 125° C.

reactant | 4'-fluoro-3'-sulfamoylacetophenone | 12.5 g | FC1=C(C=C(C=C1)C(C)=O)S(N)(=O)=O | C8H8FNO3S
reactant | bromine | 9.2 g | BrBr | Br2
product | 2-bromo-4'-fluoro-3'-sulfamoylacetophenone | BrCC(=O)C1=CC(=C(C=C1)F)S(N)(=O)=O | C8H7BrFNO3S
